US07632840B2
N-(3-Chloro-2-fluorophenyl)-6-[(ethylamino)methyl]-7-methoxyquinazolin-4-amine was coupled with ethyl O-trifluoromethanesulfonyl-D-lactate and hydrolysed using analogous methods to those described for the equivalent steps in Example 46 to give N-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)-N-ethyl-L-alanine; 1H NMR Spectrum: (DMSO-d6) 1.03 (t, 3H); 1.29 (d, 3H); 2.71 (q, 2H); 3.56 (q, 1H); 3.86 (d, 1H); 3.94 (m, 4H); 7.19 (s, 1H); 7.28 (t, 1H); 7.48 (m, 1H); 7.56 (m, 1H); 8.41 (m, 2H); 9.76 (brs, 1H); Mass Spectrum: (M+H)+ 433.

reactant | N-(3-Chloro-2-fluorophenyl)-6-[(ethylamino)methyl]-7-methoxyquinazolin-4-amine | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CNCC)OC)F | C18H18ClFN4O
reactant | ethyl O-trifluoromethanesulfonyl-D-lactate | CCOC(=O)[C@@H](C)OS(=O)(=O)C(F)(F)F | C6H9F3O5S
product | N-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)-N-ethyl-L-alanine | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CN([C@@H](C)C(=O)O)CC)OC)F | C21H22ClFN4O3
